US04028370
Synthesis of 2-dimethylaminopyrazolo[1,5-a]pyridine
A mixture of 3.25g (1.6 × 10-2 mole) of 3-carbamoyl-2-dimethylaminopyrazolo[1,5-a]pyridine and 100 ml of concentrated hydrochloric acid was refluxed for 5 hours. After cooling, the solution was made to alkali and extracted with chloroform. The chloroform solution was dried over sodium sulfate and concentrated. The residue was column-chromatographed over alumina. The elution with methylene chloride gave crude product, which was recrystallized from n-hexane to give 1.3g of colorless needles, mp 51°-52° C. Yield 50%.

reactant | 3-carbamoyl-2-dimethylaminopyrazolo[1,5-a]pyridine | 1.6 × 10-2 mole, 3.25g | C(N)(=O)C=1C(=NN2C1C=CC=C2)N(C)C | C10H12N4O
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 2-dimethylaminopyrazolo[1,5-a]pyridine | 1.3g, Yield 50% | CN(C1=NN2C(C=CC=C2)=C1)C | C9H11N3
